US07592373B2
2.2.b. 3-[4-(2-pyrrolidin-1-ylethyl)phenyl]propynoic acid-4-chlorophenylamide
Prepared analogously to Example 2.1.e. from propynoic acid-(4-chlorophenyl)amide and 1-[2-(4-iodophenyl)ethyl]pyrrolidine. Yield: 80 mg (34.1% of theory); melting point: 153° C.-154° C.; C21H21ClN2O (M=352.86); calc.: molecular ion peak (M+H)+: 353/355; found: molecular ion peak (M+H)+: 353/355.

reactant | propynoic acid-(4-chlorophenyl)amide | ClC1=CC=C(C=C1)NC(C#C)=O | C9H6ClNO
reactant | 1-[2-(4-iodophenyl)ethyl]pyrrolidine | IC1=CC=C(C=C1)CCN1CCCC1 | C12H16IN
product | 3-[4-(2-pyrrolidin-1-ylethyl)phenyl]propynoic acid-4-chlorophenylamide | ClC1=CC=C(C=C1)NC(C#CC1=CC=C(C=C1)CCN1CCCC1)=O | C21H21ClN2O
